### PR TITLE
feat: add `BitVec.umulOverflow` and `BitVec.smulOverflow` definitions and additional theorems

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds SMT-LIB operators to detect overflow `BitVec.(umul_overflow, smul_overflow)`, according to the definitions [here](https://github.com/SMT-LIB/SMT-LIB-2/blob/2.7/Theories/FixedSizeBitVectors.smt2), and the theorems proving equivalence of such definitions with the `BitVec` library functions (`umulOverflow_eq`, `smulOverflow_eq`). Support theorems for these proofs are  `BitVec.toInt_one_of_lt, BitVec.toInt_twoPow, BitVec.toInt_mul_toInt_lt, BitVec.le_toInt_mul_toInt, BitVec.toInt_intMax, BitVec.toNat_mul_toNat_lt` and `Int.emod_eq_add_self_emod, Int.mul_le_mul_neg, Int.bmod_eq_of_le_of_lt, Int.mul_le_mul_self, Int.neg_mul_self_le_mul, Int.pow_lt_pow` and `Nat.mul_mod_mod`. The PR also includes a set of tests.

### CODE REVIEW

**Comment by kim-em** [comment]
(remember to include BitVec in the title)

File: src/Init/Data/Int/LemmasAux.lean [hunk 1]
```diff
@@ -45,4 +45,31 @@ theorem bmod_neg_iff {m : Nat} {x : Int} (h2 : -m ≤ x) (h1 : x < m) :
   · rw [Int.emod_eq_of_lt xpos (by omega)]; omega
   · rw [Int.add_emod_self.symm, Int.emod_eq_of_lt (by omega) (by omega)]; omega
 
+theorem bmod_eq_iff_of_lt_of_lt {x : Int} {y : Nat} (hge : -y ≤ x * 2) (hlt : x * 2 < y) :
```
Comment (bollu) [inline src/Init/Data/Int/LemmasAux.lean:48]: Isn't this `bmod_eq_of_le_of_lt`? The hypothesis`hge` is an `le`, not an `lt`. I'm also not sure why we need an `iff` in the theorem name.

File: src/Init/Data/Int/LemmasAux.lean [hunk 2]
```diff
@@ -45,4 +45,31 @@ theorem bmod_neg_iff {m : Nat} {x : Int} (h2 : -m ≤ x) (h1 : x < m) :
...
+    x.bmod y = x := by
+  simp only [Int.bmod_def]
+  rcases x
+  · rw [Int.emod_eq_of_lt (by simp only [ofNat_eq_coe]; omega) (by omega)]; omega
+  · rw [Int.emod_eq_add_self_emod, Int.emod_eq_of_lt (by omega) (by omega)]; omega
+
+theorem mul_le_mul_self {x y : Int} {s : Nat} (lbx : -s ≤ x) (ubx : x < s) (lby : -s ≤ y) (uby : y < s) :
```
Comment (bollu) [inline src/Init/Data/Int/LemmasAux.lean:55]: I wonder if it would make life easier to talk about `x.natAbs ≤ s.natAbs` instead of both lower and upper bounds.

Comment (bollu) [reply src/Init/Data/Int/LemmasAux.lean:55]: I also think the upper bound can be strengthened to `x ≤ s` and `y ≤ s`

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -301,6 +302,7 @@ theorem getLsbD_ofNat (n : Nat) (x : Nat) (i : Nat) :
 
 @[simp] theorem getMsbD_zero : (0#w).getMsbD i = false := by simp [getMsbD]
 
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:305]:
```suggestion
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -3893,6 +3963,7 @@ theorem msb_intMin {w : Nat} : (intMin w).msb = decide (0 < w) := by
 
 /-! ### intMax -/
 
+
 /-- The bitvector of width `w` that has the largest value when interpreted as an integer. -/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3967]:
```suggestion
/-- The bitvector of width `w` that has the largest value when interpreted as an integer. -/
```

File: tests/lean/run/bv_decide_rewriter.lean [hunk 5]
```diff
@@ -88,6 +88,22 @@ example (x y : BitVec 16) : BitVec.uaddOverflow x y = (x.setWidth (17) + y.setWi
...
+            (BitVec.signExtend (16 * 2) x * BitVec.signExtend (16 * 2) y).slt
+              (BitVec.signExtend (16 * 2) (BitVec.intMin 16)))
+  := by rw [BitVec.smulOverflow_eq]; bv_normalize
+example (x y : BitVec w) : BitVec.umulOverflow x y = (0 < w && BitVec.twoPow (w * 2) w ≤ x.zeroExtend (w * 2) * y.zeroExtend (w * 2)) := by bv_normalize
+example (x y : BitVec w) : BitVec.smulOverflow x y =
+       (decide (w ≠ 0) &&
+            ((BitVec.signExtend (w * 2) (BitVec.intMax w)).slt
+                (BitVec.signExtend (w * 2) x * BitVec.signExtend (w * 2) y) ||
+              (BitVec.signExtend (w * 2) x * BitVec.signExtend (w * 2) y).slt
+                (BitVec.signExtend (w * 2) (BitVec.intMin w))))
```
Comment (tobiasgrosser) [inline tests/lean/run/bv_decide_rewriter.lean:104]: These might require reformatting.

File: tests/lean/run/bv_decide_rewriter.lean [hunk 6]
```diff
@@ -292,6 +308,8 @@ example {x y z : BitVec 64} : ~~~(x &&& (y * z)) = (~~~x ||| ~~~(z * y)) := by
 
 example {x : BitVec 16} : (x = BitVec.allOnes 16) → (BitVec.uaddOverflow x x) := by bv_decide
 
+example {x : BitVec 16} : (x = BitVec.allOnes 16) → (BitVec.umulOverflow x x) := by bv_decide
+
```
Comment (tobiasgrosser) [inline tests/lean/run/bv_decide_rewriter.lean:312]: Not sure if we can have some more examples, with and without overflow. Maybe also checking is `smul` works.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -3701,6 +3710,67 @@ theorem udiv_twoPow_eq_of_lt {w : Nat} {x : BitVec w} {k : Nat} (hk : k < w) : x
...
+    rw_mod_cast [BitVec.twoPow, BitVec.toInt_sub, BitVec.toInt_shiftLeft, BitVec.toNat_ofNat,
+      Int.bmod_sub_bmod_congr, toInt_one_of_lt (by omega), Nat.shiftLeft_eq,
+      Nat.mod_eq_of_lt (by omega), Int.bmod_eq_of_le_of_lt]
+    simp only [Nat.add_one_sub_one, Nat.one_mul]
+    · have : 0 < (2 ^ (w + 1 + 1 - 1) - 1) * 2 := by simp; omega
+      norm_cast
+      omega
+    · rw [← Nat.two_pow_pred_add_two_pow_pred (w := w + 1 + 1) (by omega)]
+      omega
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3773]: Are these at the right location in the file?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 8]
```diff
@@ -1254,6 +1255,41 @@ theorem saddOverflow_eq {w : Nat} (x y : BitVec w) :
...
+  · simp only [show 0 < w + 1 by omega, decide_true, Bool.true_and, decide_eq_decide]
+    rw [Nat.mod_eq_of_lt BitVec.toNat_mul_toNat_lt, Nat.mod_eq_of_lt]
+    have := Nat.pow_lt_pow_of_lt (a := 2) (n := (w + 1)) (m := (w + 1) * 2)
+    omega
+
+theorem smulOverflow_eq {w : Nat} (x y : BitVec w) :
+    smulOverflow x y
+      = ((w ≠ 0) &&
+    ((signExtend (w * 2) (intMax w)).slt (signExtend (w * 2) x * signExtend (w * 2) y) ||
+      (signExtend (w * 2) x * signExtend (w * 2) y).slt (signExtend (w * 2) (intMin w)))) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1274]: This alignment should be double-checked?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 9]
```diff
@@ -1254,6 +1255,41 @@ theorem saddOverflow_eq {w : Nat} (x y : BitVec w) :
...
+  simp only [smulOverflow]
+  rcases w with _|w
+  · simp [of_length_zero, toInt_zero]
+  · simp only [Nat.add_one_sub_one, ge_iff_le, ne_eq, show ¬(w + 1) = 0 by omega,
+    not_false_eq_true, decide_true, BitVec.slt, intMax, ofNat_eq_ofNat, toInt_mul, intMin,
+    Bool.true_and]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1280]: Are all these needed here or can we drop some?

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean:1280]: Maybe at the cost of a simp in the end? At least, then we do not need to list them separately, as it is in the end.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 10]
```diff
@@ -3701,6 +3710,62 @@ theorem udiv_twoPow_eq_of_lt {w : Nat} {x : BitVec w} {k : Nat} (hk : k < w) : x
...
+  rcases w with _|w
+  · simp [of_length_zero]
+  · have xlt := toInt_lt (x := x); have xle := le_toInt (x := x)
+    have ylt := toInt_lt (x := y); have yle := le_toInt (x := y)
+    have h : 2 ^ ((w + 1) * 2 - 2) = 2 ^ ((w + 1) - 1) * 2 ^ ((w + 1) - 1) := by
+      rw [← Nat.pow_add, ←Nat.mul_two, Nat.mul_comm (m := 2) (n := ((w + 1) - 1)), Nat.mul_sub_one, Nat.mul_comm]
+    rw_mod_cast [h]
+    rw [← Nat.two_pow_pred_mul_two (by omega), Int.natCast_mul] at xlt ylt xle yle
+    exact Int.neg_mul_self_le_mul (by omega) (by omega) (by omega) (by omega)
+
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:3768]: I would personally like to see these in terms of `natAbs`, since these follow from the following chain of reasoning:

```
|x.toInt| <= 2^(w-1)
|x.toInt * y.toInt|
  = |x.toInt| * |y.toInt|
  <= 2^(w - 1) * 2^ (w - 1)
  <= 2^ (2w - w)
```

File: src/Init/Data/Int/LemmasAux.lean [hunk 11]
```diff
@@ -45,4 +45,32 @@ theorem bmod_neg_iff {m : Nat} {x : Int} (h2 : -m ≤ x) (h1 : x < m) :
...
+      simp_all
+
+theorem neg_mul_self_le_mul {x y : Int} {s : Nat} (lbx : -s ≤ x) (ubx : x < s) (lby : -s ≤ y) (uby : y < s) :
+      -(s * s) ≤ x * y := by
+  have := Nat.mul_pos (n := s) (m := s) (by omega) (by omega)
+  by_cases 0 ≤ x <;> by_cases 0 ≤ y
+  · have : 0 ≤ x * y := Int.mul_nonneg (by omega) (by omega); omega
+  · rw [← Int.neg_mul, Int.mul_comm (a := x)]; exact Int.mul_le_mul_neg (by omega) (by omega) (by omega) (by omega)
+  · rw [← Int.neg_mul]; exact Int.mul_le_mul_neg (by omega) (by omega) (by omega) (by omega)
+  · have : 0 < x * y := Int.mul_pos_of_neg_of_neg (by omega) (by omega); omega
```
Comment (bollu) [inline src/Init/Data/Int/LemmasAux.lean:74]: I can totally believe that we need these, but it feels like something a tactic should be writing. In particular, it feels like a solver that propoagates using the following rules:

```
x <= y /\ k >= 0 => x k <= yk
x <= y /\ k < 0 => y k <= x k
.. (similar rules for <)
.. (unification upto =)
x >= k /\ x <= k => x = k
```

or a similar set thereof, which knows that `*` is monotone/antitone depending on the sign of the operand, followed by case-splitting on the signs of each of the atoms should automate this proof away.

File: src/Init/Data/Int/Pow.lean [hunk 12]
```diff
@@ -56,4 +56,11 @@ protected theorem two_pow_pred_sub_two_pow' {w : Nat} (h : 0 < w) :
   rw [← Nat.two_pow_pred_add_two_pow_pred h]
   simp [h]
 
+theorem pow_lt_pow {a : Int} {b c : Nat} (ha : (1 : Nat) < a) (hbc : b < c):
```
Comment (bollu) [inline src/Init/Data/Int/Pow.lean:59]: I'm not sure about normal forms here: I would imagine we want `ha : 1 < a`, so I'm a bit surprised to see `(1 : Nat) < a`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 13]
```diff
@@ -3701,6 +3710,62 @@ theorem udiv_twoPow_eq_of_lt {w : Nat} {x : BitVec w} {k : Nat} (hk : k < w) : x
...
+      have hj : 2 * 2 ^ i = 2 ^ (i + 1) := by rw [Nat.pow_add, Nat.mul_comm]
+      norm_cast
+      simp only [Nat.shiftLeft_eq, Nat.one_mul, hy, hj]
+      by_cases i + 1 =  (w + 1)
+      · simp only [show i = w by omega, Nat.lt_irrefl, ↓reduceIte]; omega
+      · simp only [show 2 ^ (i + 1) < 2 ^  (w + 1) by rw [Nat.pow_lt_pow_iff_right (by omega)]; omega, ↓reduceIte]
+        omega
+
+@[simp]
+theorem toInt_twoPow_sub_one : (BitVec.twoPow w (w - 1) - 1#w).toInt = 2 ^ (w - 1) - 1 := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:3732]: I'm a bit surprised that we need `toInt_twoPow_sub_one`, so I'd like to examine the proof where we use it.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 14]
```diff
@@ -3701,6 +3710,62 @@ theorem udiv_twoPow_eq_of_lt {w : Nat} {x : BitVec w} {k : Nat} (hk : k < w) : x
   have : 2^k < 2^w := Nat.pow_lt_pow_of_lt (by decide) hk
   simp [bitvec_to_nat, Nat.shiftRight_eq_div_pow, Nat.mod_eq_of_lt this]
 
+theorem toInt_twoPow {w i : Nat} :
+    (BitVec.twoPow w i).toInt = if w ≤ i then (0 : Int) else (if i + 1 = w then -(1 <<< i:Int) else (1 <<< i)) := by
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:3714]: There are lots of ways to phrase the RHS of the theorem, and I don't know which one is canonical.
Here's at least one more reasonable phrasing, where we only compute the sign in the `if-then-else`:

```
if w ≤ i then (0 : Int) 
else (if i + 1 = w then -1 else 1) * (1 <<< i) 
```

----

And here's a more perverse one which uses the linear function that sends `true` to `-1` and `false` to `1`, which lets us write the boolean `0/1` into an arithmetic `+1/-1` . This is not a pattern we use, but arose in my mind as a pattern that may help write simpler statements:

```
if w ≤ i then (0 : Int) 
else (1 - 2 * (Bool.ofInt (decide (i + 1 = w)))) * (1 <<< i)
```

**Review by bollu — CHANGES_REQUESTED** [review]
It's great that we have the proofs :) Let's see if we can try and shorten them a bit by appealing to `natAbs`, and see if we can bypass the use of `toInt_twoPow_sub_one`.

File: src/Init/Data/BitVec/Basic.lean [hunk 15]
```diff
@@ -703,4 +703,16 @@ def reverse : {w : Nat} → BitVec w → BitVec w
   | 0, x => x
   | w + 1, x => concat (reverse (x.truncate w)) (x.msb)
 
+/-- Overflow predicate for unsigned multiplication modulo 2^w.
+  SMT-Lib name: `bvumulo`.
+-/
+
```
Comment (bollu) [inline src/Init/Data/BitVec/Basic.lean:709]:
```suggestion
/-- Overflow predicate for unsigned multiplication modulo 2^w.

  SMT-Lib name: `bvumulo`.
-/

```

File: src/Init/Data/BitVec/Basic.lean [hunk 16]
```diff
@@ -703,4 +703,16 @@ def reverse : {w : Nat} → BitVec w → BitVec w
...
+def umulOverflow {w : Nat} (x y : BitVec w) : Bool := x.toNat * y.toNat ≥ 2 ^ w
+
+/-- Overflow predicate for signed multiplication on w-bit 2's complement.
+  SMT-Lib name: `bvsmulo`.
+-/
+
```
Comment (bollu) [inline src/Init/Data/BitVec/Basic.lean:715]:
```suggestion

/-- Overflow predicate for signed multiplication on w-bit 2's complement.

  SMT-Lib name: `bvsmulo`.
-/

```

File: src/Init/Data/BitVec/Bitblast.lean (hunk 9 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Bitblast.lean]: I tried to move as many as possible toward the end, but it seems that these are in fact necessary.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 7 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean]: moved!

File: src/Init/Data/BitVec/Lemmas.lean [hunk 17]
```diff
@@ -3941,6 +3990,18 @@ theorem getLsbD_intMax (w : Nat) : (intMax w).getLsbD i = decide (i + 1 < w) :=
   · simp [h]
   · rw [Nat.sub_add_cancel (Nat.two_pow_pos (w - 1)), Nat.two_pow_pred_mod_two_pow (by omega)]
 
+@[simp]
+theorem toInt_intMax : (BitVec.intMax w).toInt = 2 ^ (w - 1) - 1 := by
+  have : intMax w = BitVec.twoPow w (w - 1) - 1#w := by simp [intMax]
+  rw [this]
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:3996]:
```suggestion
  simp only [intMax]
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 18]
```diff
@@ -1254,7 +1255,44 @@ theorem saddOverflow_eq {w : Nat} (x y : BitVec w) :
...
+    umulOverflow x y =
+      (0 < w && BitVec.twoPow (w * 2) w ≤ x.zeroExtend (w * 2) * y.zeroExtend (w * 2)) := by
+  simp [umulOverflow, ge_iff_le, truncate_eq_setWidth, le_def, toNat_twoPow, toNat_mul,
+    toNat_setWidth, Nat.mul_mod_mod, Nat.mod_mul_mod]
+  rcases w with _|w
+  · simp [of_length_zero, toInt_zero]
+  · simp only [show 0 < w + 1 by omega, decide_true, Bool.true_and, decide_eq_decide]
+    rw [Nat.mod_eq_of_lt BitVec.toNat_mul_toNat_lt, Nat.mod_eq_of_lt]
+    have := Nat.pow_lt_pow_of_lt (a := 2) (n := (w + 1)) (m := (w + 1) * 2)
+    omega
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1268]:
```suggestion
    have := Nat.pow_lt_pow_of_lt (a := 2) (n := w + 1) (m := (w + 1) * 2)
    omega
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 19]
```diff
@@ -1254,7 +1255,44 @@ theorem saddOverflow_eq {w : Nat} (x y : BitVec w) :
...
+theorem smulOverflow_eq {w : Nat} (x y : BitVec w) :
+    smulOverflow x y =
+      ((w ≠ 0) &&
+      ((signExtend (w * 2) (intMax w)).slt (signExtend (w * 2) x * signExtend (w * 2) y) ||
+      (signExtend (w * 2) x * signExtend (w * 2) y).slt (signExtend (w * 2) (intMin w)))) := by
+  simp only [smulOverflow]
+  rcases w with _|w
+  · simp [of_length_zero, toInt_zero]
+  · have := Int.pow_lt_pow (a := 2) (b := ((w + 1) * 2 - 2)) (c := ((w + 1) * 2 - 1)) (by omega)
+    have := @BitVec.le_toInt_mul_toInt (w + 1) x y
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1279]:
```suggestion
  · have := Int.pow_lt_pow (a := 2) (b := (w + 1) * 2 - 2) (c := (w + 1) * 2 - 1) (by omega)
    have := @BitVec.le_toInt_mul_toInt (w + 1) x y
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 20]
```diff
@@ -1254,7 +1255,44 @@ theorem saddOverflow_eq {w : Nat} (x y : BitVec w) :
...
+    have := @BitVec.toInt_mul_toInt_lt (w + 1) x y
+    simp only [Nat.add_one_sub_one, ge_iff_le, ne_eq, show ¬(w + 1) = 0 by omega,
+    not_false_eq_true, decide_true, BitVec.slt, intMax, ofNat_eq_ofNat, toInt_mul, intMin,
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1282]:
```suggestion
    simp only [Nat.add_one_sub_one, ge_iff_le, ne_eq, show ¬w + 1 = 0 by omega,
    not_false_eq_true, decide_true, BitVec.slt, intMax, ofNat_eq_ofNat, toInt_mul, intMin,
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 21]
```diff
@@ -3701,6 +3710,46 @@ theorem udiv_twoPow_eq_of_lt {w : Nat} {x : BitVec w} {k : Nat} (hk : k < w) : x
   have : 2^k < 2^w := Nat.pow_lt_pow_of_lt (by decide) hk
   simp [bitvec_to_nat, Nat.shiftRight_eq_div_pow, Nat.mod_eq_of_lt this]
 
+theorem toInt_twoPow {w i : Nat} :
+    (BitVec.twoPow w i).toInt = if w ≤ i then (0 : Int) else (if i + 1 = w then -(1 <<< i:Int) else (1 <<< i)) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3714]:
```suggestion
    (BitVec.twoPow w i).toInt = if w ≤ i then (0 : Int) else (if i + 1 = w then -(1 <<< i:Int) else 1 <<< i) := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 22]
```diff
@@ -3701,6 +3710,46 @@ theorem udiv_twoPow_eq_of_lt {w : Nat} {x : BitVec w} {k : Nat} (hk : k < w) : x
...
+    · simp [h]; norm_cast; omega
+    · simp only [toNat_shiftLeft, toNat_ofNat, Nat.zero_lt_succ, Nat.one_mod_two_pow, Int.ofNat_emod, h,
+      ↓reduceIte, Nat.add_right_cancel_iff]
+      have hy : (2 ^ i % 2 ^  (w + 1)) = 2 ^ i := by rw [Nat.mod_eq_of_lt (by rw [Nat.pow_lt_pow_iff_right (by omega)]; omega)]
+      have hj : 2 * 2 ^ i = 2 ^ (i + 1) := by rw [Nat.pow_add, Nat.mul_comm]
+      norm_cast
+      simp only [Nat.shiftLeft_eq, Nat.one_mul, hy, hj]
+      by_cases i + 1 =  (w + 1)
+      · simp only [show i = w by omega, Nat.lt_irrefl, ↓reduceIte]; omega
+      · simp only [show 2 ^ (i + 1) < 2 ^  (w + 1) by rw [Nat.pow_lt_pow_iff_right (by omega)]; omega, ↓reduceIte]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3728]:
```suggestion
      · simp only [show 2 ^ (i + 1) < 2 ^ (w + 1) by rw [Nat.pow_lt_pow_iff_right (by omega)]; omega, ↓reduceIte]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 23]
```diff
@@ -3701,6 +3710,46 @@ theorem udiv_twoPow_eq_of_lt {w : Nat} {x : BitVec w} {k : Nat} (hk : k < w) : x
...
+        omega
+
+theorem toInt_mul_toInt_lt {x y : BitVec w} : x.toInt * y.toInt ≤ 2 ^ (w * 2 - 2) := by
+  rcases w with _|w
+  · simp [of_length_zero]
+  · have xlt := toInt_lt (x := x); have xle := le_toInt (x := x)
+    have ylt := toInt_lt (x := y); have yle := le_toInt (x := y)
+    have h : 2 ^ ((w + 1) * 2 - 2) = 2 ^ ((w + 1) - 1) * 2 ^ ((w + 1) - 1) := by
+      rw [← Nat.pow_add, ←Nat.mul_two, Nat.mul_comm (m := 2) (n := ((w + 1) - 1)), Nat.mul_sub_one, Nat.mul_comm]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3737]:
```suggestion
      rw [← Nat.pow_add, ←Nat.mul_two, Nat.mul_comm (m := 2) (n := (w + 1) - 1), Nat.mul_sub_one, Nat.mul_comm]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 24]
```diff
@@ -3701,6 +3710,46 @@ theorem udiv_twoPow_eq_of_lt {w : Nat} {x : BitVec w} {k : Nat} (hk : k < w) : x
...
+    rw [← Nat.two_pow_pred_mul_two (by omega), Int.natCast_mul] at xlt ylt xle yle
+    exact Int.mul_le_mul_self (by omega) (by omega)
+
+theorem le_toInt_mul_toInt {x y : BitVec w} : - (2 ^ (w * 2 - 2)) ≤ x.toInt * y.toInt := by
+  rcases w with _|w
+  · simp [of_length_zero]
+  · have xlt := toInt_lt (x := x); have xle := le_toInt (x := x)
+    have ylt := toInt_lt (x := y); have yle := le_toInt (x := y)
+    have h : 2 ^ ((w + 1) * 2 - 2) = 2 ^ ((w + 1) - 1) * 2 ^ ((w + 1) - 1) := by
+      rw [← Nat.pow_add, ←Nat.mul_two, Nat.mul_comm (m := 2) (n := ((w + 1) - 1)), Nat.mul_sub_one, Nat.mul_comm]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3748]:
```suggestion
      rw [← Nat.pow_add, ←Nat.mul_two, Nat.mul_comm (m := 2) (n := (w + 1) - 1), Nat.mul_sub_one, Nat.mul_comm]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 25]
```diff
@@ -3701,6 +3710,46 @@ theorem udiv_twoPow_eq_of_lt {w : Nat} {x : BitVec w} {k : Nat} (hk : k < w) : x
   have : 2^k < 2^w := Nat.pow_lt_pow_of_lt (by decide) hk
   simp [bitvec_to_nat, Nat.shiftRight_eq_div_pow, Nat.mod_eq_of_lt this]
 
+theorem toInt_twoPow {w i : Nat} :
+    (BitVec.twoPow w i).toInt = if w ≤ i then (0 : Int) else (if i + 1 = w then -(1 <<< i:Int) else 1 <<< i) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3714]:
```suggestion
    (BitVec.twoPow w i).toInt = (if w ≤ i then 0 else if i + 1 = w then -1 <<< i else 1 <<< i : Int) := by
```

Does this work?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 26]
```diff
@@ -3701,6 +3710,46 @@ theorem udiv_twoPow_eq_of_lt {w : Nat} {x : BitVec w} {k : Nat} (hk : k < w) : x
...
+    · simp [h]; norm_cast; omega
+    · simp only [toNat_shiftLeft, toNat_ofNat, Nat.zero_lt_succ, Nat.one_mod_two_pow, Int.ofNat_emod, h,
+      ↓reduceIte, Nat.add_right_cancel_iff]
+      have hy : (2 ^ i % 2 ^  (w + 1)) = 2 ^ i := by rw [Nat.mod_eq_of_lt (by rw [Nat.pow_lt_pow_iff_right (by omega)]; omega)]
+      have hj : 2 * 2 ^ i = 2 ^ (i + 1) := by rw [Nat.pow_add, Nat.mul_comm]
+      norm_cast
+      simp only [Nat.shiftLeft_eq, Nat.one_mul, hy, hj]
+      by_cases i + 1 =  (w + 1)
+      · simp only [show i = w by omega, Nat.lt_irrefl, ↓reduceIte]; omega
+      · simp only [show 2 ^ (i + 1) < 2 ^ (w + 1) by rw [Nat.pow_lt_pow_iff_right (by omega)]; omega, ↓reduceIte]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:3728]:
```suggestion
      · simp [show i = w by omega]; omega
      · simp [show 2 ^ (i + 1) < 2 ^ (w + 1) by rw [Nat.pow_lt_pow_iff_right (by omega)]; omega]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 27]
```diff
@@ -3701,6 +3710,46 @@ theorem udiv_twoPow_eq_of_lt {w : Nat} {x : BitVec w} {k : Nat} (hk : k < w) : x
...
 
+theorem toInt_twoPow {w i : Nat} :
+    (BitVec.twoPow w i).toInt = if w ≤ i then (0 : Int) else (if i + 1 = w then -(1 <<< i:Int) else 1 <<< i) := by
+  simp only [BitVec.twoPow, BitVec.toInt]
+  rcases w with _|w
+  · simp
+  · by_cases h : w + 1 ≤ i
+    · simp [h]; norm_cast; omega
+    · simp only [toNat_shiftLeft, toNat_ofNat, Nat.zero_lt_succ, Nat.one_mod_two_pow, Int.ofNat_emod, h,
+      ↓reduceIte, Nat.add_right_cancel_iff]
```
[the remark this answers is not in the document]
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:3721]: Can you go over the `simp only` commands and see if there are unnecessary theorems?

File: tests/lean/run/bv_decide_rewriter.lean [hunk 28]
```diff
@@ -292,6 +304,10 @@ example {x y z : BitVec 64} : ~~~(x &&& (y * z)) = (~~~x ||| ~~~(z * y)) := by
...
+example {x : BitVec 8} : (x = -32#8) → (BitVec.smulOverflow x x) := by bv_decide
+
```
Comment (tobiasgrosser) [inline tests/lean/run/bv_decide_rewriter.lean:310]: I feel 1-2 examples where we expect no overflow would be useful, e.g.

`example {x : BitVec 8} : (x = 0#8) → (\not BitVec.smulOverflow x x) := by bv_decide`

File: src/Init/Data/BitVec/Bitblast.lean [hunk 29]
```diff
@@ -1254,7 +1255,44 @@ theorem saddOverflow_eq {w : Nat} (x y : BitVec w) :
...
+      toInt_intMax, Nat.add_one_sub_one, toInt_twoPow, show ¬w + 1 ≤ w by omega, ↓reduceIte,
+      Nat.shiftLeft_eq, Nat.one_mul]
+    push_cast
+    rw [← Nat.two_pow_pred_add_two_pow_pred (by omega),
+      Int.bmod_eq_of_le_of_lt (by rw [← Nat.mul_two]; push_cast; omega)
+                              (by rw [← Nat.mul_two]; push_cast; omega)]
+    simp only [bool_to_prop]
+    omega
+
+-- /- ### umod -/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1296]: Sth broke with this comment above? it should just be `/- ### umod -/`, no?

File: src/Init/Data/BitVec/Lemmas.lean (hunk 25 above)
Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:3714]: it does, I'll double check all the `simp only`s and push

File: tests/lean/run/bv_decide_rewriter.lean (hunk 28 above)
Comment (luisacicolini) [reply tests/lean/run/bv_decide_rewriter.lean:310]: done!

File: src/Init/Data/Int/DivModLemmas.lean [hunk 30]
```diff
@@ -481,6 +481,9 @@ theorem lt_mul_ediv_self_add {x k : Int} (h : 0 < k) : x < k * (x / k) + k :=
 @[simp] theorem add_emod_self_left {a b : Int} : (a + b) % a = b % a := by
   rw [Int.add_comm, Int.add_emod_self]
 
+theorem Int.emod_eq_add_self_emod {a b : Int} : a % b = (a + b) % b :=
```
Comment (bollu) [inline src/Init/Data/Int/DivModLemmas.lean:484]:
```suggestion
theorem emod_eq_add_self_emod {a b : Int} : a % b = (a + b) % b :=
```

We are already in `Int` scope, no?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 31]
```diff
@@ -4141,24 +4142,26 @@ theorem toInt_twoPow {w i : Nat} :
...
   · simp [of_length_zero]
-  · have xlt := toInt_lt (x := x); have xle := le_toInt (x := x)
-    have ylt := toInt_lt (x := y); have yle := le_toInt (x := y)
-    have h : 2 ^ ((w + 1) * 2 - 2) = 2 ^ ((w + 1) - 1) * 2 ^ ((w + 1) - 1) := by
-      rw [← Nat.pow_add, ←Nat.mul_two, Nat.mul_comm (m := 2) (n := (w + 1) - 1), Nat.mul_sub_one, Nat.mul_comm]
-    rw_mod_cast [h]
-    rw [← Nat.two_pow_pred_mul_two (by omega), Int.natCast_mul] at xlt ylt xle yle
-    exact Int.neg_mul_self_le_mul (by omega) (by omega) (by omega) (by omega)
+  · sorry
+    -- have xlt := toInt_lt (x := x); have xle := le_toInt (x := x)
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:4158]: Luisa, try two_mul_toInt_lt. Try this PR: https://github.com/leanprover/lean4/commit/e7e57d40c4c5ee692a48a60a023327cc17c9bf83.

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:4158]: thank you - I'm still at a stage where I'm sorrying things after merging master to understand what's broken and what happened over the past two weeks!

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:4158]: OK. You should not need to "redo" proofs. If a broof is broken and you cannot figure it out in 10' let me know and we look at it together. This should be a trivial merge, if it is not lets first check why before starting to build new proofs.

**Comment by luisacicolini** [comment]
now in #7530
